US07666888B2
5-(4-Methylphenyl)-4-(pyrrolidin-1-ylcarbonyl)isoxazole
To 5-(4-methylphenyl)isoxazole-4-carbonyl chloride (30 mg, 0.14 mmol) in dichloromethane (1 mL) was added pyrrolidine (11 mg, 0.16 mmol, 1.1 eq.), and the reaction mixture was stirred for 1 h. The solvent was removed, and the residue was purified by preparative reverse-phase HPLC to give the title compound. HRMS (ESI, pos. ion) m/z calcd for C15H16N2O2: 256.1212, found 256.1214.

reactant | 5-(4-methylphenyl)isoxazole-4-carbonyl chloride | 0.14 mmol, 30 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)Cl | C11H8ClNO2
reactant | pyrrolidine | 0.16 mmol, 11 mg, 1.1 eq. | N1CCCC1 | C4H9N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 5-(4-Methylphenyl)-4-(pyrrolidin-1-ylcarbonyl)isoxazole | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CCCC1 | C15H16N2O2
